US05134231
1-Benzyloxy-2-methyl-2-propene (8.1 g; 50 mmole) was dissolved in dry tetrahydrofuran (50 ml), and lM boranetetrahydrofuran solution (25 ml; 25 mmole) was dropwise added thereto with ice-cooling, followed by stirring at room temperature for 1 hour. After addition of water (4 ml) and 3M sodium hydroxide solutoin (8.5 ml; 25.5 mmole), the reaction mixture was stirred at 40° C. for 5 minutes. Then, 35 % hydrogen peroxide solution (5.1 ml; 53 mmole) was added thereto, followed by stirring at the same temperature for 1.5 hours. The reaction mixture was returned to room temperature, a saturated sodium chloride solution (100 ml) was added thereto, and the resulting mixture was extracted with ether (150 ml×3). The ether extracts were combined together, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give crude 3-benzyloxy-2-methylpropanol (8.5 g). A portion (5.41 g; 30 mmole) of said crude product was dissolved in acetone (22 ml), and a Jones reagent (1.8 mmole/ml) (16.7 ml; 30 mmole) was dropwise added thereto with ice-cooling, followed by stirring for 3 hours. Insoluble materials were removed by filtration, and the filtrate was shaken with ice water (250 ml) and ethyl acetate (400 ml). The organic layer was extracted with a saturated sodium bicarbonate solution, and the extract was adjusted to pH 2 with conc. hydrochloric acid and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give 3-benzyloxy-2-methylpropionic acid.

reactant | 1-Benzyloxy-2-methyl-2-propene | 50 mmole, 8.1 g | C(C1=CC=CC=C1)OCC(=C)C | C11H14O
reactant | sodium hydroxide | 3M | [OH-].[Na+]
reactant | hydrogen peroxide | 53 mmole, 5.1 ml | OO | H2O2
reactant | sodium chloride | 100 ml | [Cl-].[Na+]
reactant | Jones reagent | 30 mmole, 1.8 mmole/ml, 16.7 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | acetone | 22 ml | CC(=O)C | C3H6O
solvent | water | 4 ml | O | H2O
product | 3-benzyloxy-2-methylpropionic acid | C(C1=CC=CC=C1)OCC(C(=O)O)C | C11H14O3
